US04312990
(A) 3-Amino-4-chloroacetophenone
A mixture of 39.8 g of 4-chloro-3-nitroacetophenone and 136 g of SnCl2.2H2O in 220 ml of concentrated HCl is stirred at room temperature for 0.5 hours. The reaction mixture warms spontaneously to 70° C. then cools. Toluene (200 ml) is added and the reaction mixture is made alkaline with 30% NaOH. Ether is added and the layers are separated. The aqueous layer is extracted twice more with ether, the organic layers are combined, dried, and evaporated. The solid residue is crystallized from benzene to yield 29.6 g of the title compound, melting point 104°-105° C.

reactant | 4-chloro-3-nitroacetophenone | 39.8 g | CC(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C8H6ClNO3
reactant | SnCl2.2H2O | 136 g | O.O.Cl[Sn]Cl
reactant | Toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 220 ml | Cl | ClH
solvent | Ether | CCOCC | C4H10O
product | 3-Amino-4-chloroacetophenone | 29.6 g | CC(=O)C1=CC(=C(C=C1)Cl)N | C8H8ClNO
